US09169254B2
A 6 M aqueous hydrochloric acid solution (217.9 ml, 1307.4 mmol) was slowly added to a suspension of 4-[2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-ethyl]-3-methyl-benzoic acid (16.1 g, 43.58 mmol) in acetone (485 ml) at 0° C., and the mixture was warmed to room temperature and stirred overnight. The reaction mixture was filtered off, and the filtrate was then concentrated under reduced pressure. The precipitated solid was filtered off again. The solids filtered off were combined and dried to give 3-methyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzoicacid as a white solid (13.62 g, 91.8%).

reactant | hydrochloric acid | 1307.4 mmol, 6 M, 217.9 ml | Cl | ClH
reactant | 4-[2-(1,4-dioxa-8-aza-spiro[4.5]decane-8-sulfonyl)-ethyl]-3-methyl-benzoic acid | 43.58 mmol, 16.1 g | O1CCOC12CCN(CC2)S(=O)(=O)CCC2=C(C=C(C(=O)O)C=C2)C | C17H23NO6S
solvent | acetone | 485 ml | CC(=O)C | C3H6O
product | 3-methyl-4-[2-(4-oxo-piperidine-1-sulfonyl)-ethyl]-benzoicacid | 13.62 g, 91.8% | CC=1C=C(C(=O)O)C=CC1CCS(=O)(=O)N1CCC(CC1)=O | C15H19NO5S
